US07423050B2
1. 2-Chloro-6-(1-methylpiperidin-4-ylcarbonyl) pyridine
Add 2-chloropyridine (1 g, 8.8 mmole) to a mixture of n-butyl lithium (1.6 M in hexane) (22 mL, 35.2 mmole) and 2-dimethylamino-ethanol (1.56 g, 17.6 mmole) in hexane (20 mL at −78° C.) and stirred for 1 hour. Then add 1-methyl-piperidine-4-carboxylic acid methoxy-methyl-amide (3.2 g, 17.6 mmole) in hexane (5 mL) and stir the mixture for 1 hour. Quench the reaction mixture with water and extract twice with ethyl acetate, dry the organic layer with anhydrous sodium sulfate, evaporate the solvent and purify the residual product by chromatography on a silica gel column to give about 1 g of the title product.

reactant | 2-chloropyridine | 8.8 mmole, 1 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | n-butyl lithium | 35.2 mmole, 1.6 M, 22 mL | C(CCC)[Li]
reactant | 2-dimethylamino-ethanol | 17.6 mmole, 1.56 g | CN(CCO)C | C4H11NO
reactant | 1-methyl-piperidine-4-carboxylic acid methoxy-methyl-amide | 17.6 mmole, 3.2 g | CON(C(=O)C1CCN(CC1)C)C | C9H18N2O2
solvent | hexane | 20 mL | CCCCCC | C6H14
solvent | hexane | 5 mL | CCCCCC | C6H14
product | 2-Chloro-6-(1-methylpiperidin-4-ylcarbonyl) pyridine | about 1 g | ClC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C12H15ClN2O
